US05728835
3-Nitro-N-(4-fluorophenyl)benzamide
Using 4-fluoroaniline (1.1 ml, 10.9 mmol) and 3-nitrobenzoic acid (1.76 g, 10.0 mmol), the procedure of Reference Example 16 was repeated to obtain 1.98 g (76.0%) of the title compound in the form of light yellow needle crystals.

reactant | 4-fluoroaniline | 10.9 mmol, 1.1 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3-nitrobenzoic acid | 10.0 mmol, 1.76 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
product | 3-Nitro-N-(4-fluorophenyl)benzamide | 1.98 g, 76.0% | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C(C=C2)F)C=CC1 | C13H9FN2O3
